US08124649B2
To 3-((5-bromofuran-2-yl)methylene)-5-chloroindolin-2-one (50 mg, 0.155 mmol) in dioxane/water (5% water) was added Cs2CO3 (152 mg, 0.466 mmol) and N-(2-morpholinoethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (62 mg, 0.186 mmol). The mixture was degassed with nitrogen for 5 minutes then heated in microwave for 20 minutes at 120° C. The solution was diluted with water and the solid formed was isolated by filtration. The solid was purified by HPLC to yield 5-chloro-3-((5-(6-(2-morpholinoethylamino)pyridin-3-yl)furan-2-yl)methylene)indolin-2-one. LCMS (M+1=451).

reactant | 3-((5-bromofuran-2-yl)methylene)-5-chloroindolin-2-one | 0.155 mmol, 50 mg | BrC1=CC=C(O1)C=C1C(NC2=CC=C(C=C12)Cl)=O | C13H7BrClNO2
reactant | Cs2CO3 | 0.466 mmol, 152 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | N-(2-morpholinoethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 0.186 mmol, 62 mg | O1CCN(CC1)CCNC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C17H28BN3O3
solvent | dioxane water | O1CCOCC1.O
product | 5-chloro-3-((5-(6-(2-morpholinoethylamino)pyridin-3-yl)furan-2-yl)methylene)indolin-2-one | ClC=1C=C2C(C(NC2=CC1)=O)=CC=1OC(=CC1)C=1C=NC(=CC1)NCCN1CCOCC1 | C24H23ClN4O3
